US04051176
To a solution of 25.5 g of 8-amino-1,3,6-naphthalene-trisulfonic acid, trisodium salt is 100 ml of water and 60 ml of N sodium hydroxide at room temperature is added 8.13 g of 5-nitroisophthaloyl chloride with about 15 ml of ether. The mixture is shaken briefly and a second 60 ml portion of N sodium hydroxide is added. The mixture is shaken for 5 minutes and a third 60 ml portion of N sodium hydroxide is added. The mixture is shaken for 15 minutes and a 1.0 portion of the acid chloride is added with a few ml of ether, shaking is resumed for an additional 45 minutes then the mixture is acidified with 5 ml of concentrated hydrochloric acid and extracted with four 150 ml portions of ethers. The aqueous solution is neutralized and is concentrated to about 50 ml in vacuo at 55° C. The remaining liquid is allowed to stand at room temperature for 48 hours and forms a solid which is diluted with 125 ml of 80% ethyl alchol and triturated. The material is filtered and washed with 80% ethyl alcohol, absolute ethanol and ether, then dried at 120° C for a few hours. The product is then dissolved in 60 ml of water, heated on the steam bath and diluted with 300 ml of absolute ethanol. The material is filtered and washed and the final product is then dried at 120° C overnight to give 8,8'-[(5-nitro-1,3-phenylene)bis(carbonylimino)]di-1,3,6-naphthalenetrisulfonic acid, hexasodium salt.

reactant | 8-amino-1,3,6-naphthalene-trisulfonic acid | 25.5 g | NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO9S3
reactant | trisodium salt | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 5-nitroisophthaloyl chloride | 8.13 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)Cl)C1)C(=O)Cl | C8H3Cl2NO4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | about 15 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 8,8'-[(5-nitro-1,3-phenylene)bis(carbonylimino)]di-1,3,6-naphthalenetrisulfonic acid | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C28H19N3O22S6
